US08026257B2
(R)-tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)vinyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (1 g, 1.62 mmol) was transferred to a parr bottle (pre-purged with nitrogen) and dissolved in dichloroethane (40 mL). The resulting solution was purged by bubbling nitrogen through it for 45 min. To the bottle was quickly added diacetato[(S)-(−)-2,2′-bis(di-p-tolylphosphino)-1,1′-binaphthyl]ruthenium(II) (233 mg, 0.259 mmol). The bottle was purged for 10 additional min, and quickly affixed to the parr shaker. After 3 vaccuum/pressurize cycles, the shaker was pressurized to 65 psi and shaken overnight. The crude reaction mixture was loaded onto a pre-conditioned column of 12% ethyl acetate/n-hexane. After several volumes, the polarity was increased to 25% ethyl acetate/n-hexane to give 850 mg (85%) as a viscous amber oil. 1H-NMR (CDCl3, 500 MHz) δ 8.00 (s, 1H), 7.48 (d, J=1.8 Hz, 1H), 7.31 (dd, J=8.5, 5.2 Hz, 2H), 7.03 (dd, J=8.9, 8.6 Hz, 2H), 6.77 (s, 1H), 5.67 (d, J=10.7 Hz, 1H), 5.64 (d, J=10.7 Hz, 1H), 4.93 (q, J=6.4 Hz, 1H), 3.72 (m, 2H), 3.59 (t, J=8.4 Hz, 2H), 3.37 (d, J=9.2 Hz, 1H), 3.34 (d, J=9.2 Hz, 1H), 3.05 (m, 2H), 2.19 (m, 1H), 2.08 (m, 1H), 1.94 (m, 1H), 1.87 (m, 1H), 1.44 (s, 9H), 1.43 (d, J=6.4 Hz, 3H), 0.91 (dd, J=9.2, 7.3 Hz, 2H), −0.06 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.5 (d, J=245 Hz), 155.1, 145.6, 138.9, 135.8, 128.9 (d, J=7.7 Hz), 128.3, 122.82, 122.76, 122.2, 117.6, 115.2 (d, J=21 Hz), 81.9, 79.4, 77.9, 73.9, 67.6, 41.3, 40.3, 32.3, 32.0, 28.6, 22.8, 17.9, −1.4. Mass spec.: 618.39 (MH)+.

reactant | tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)vinyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 1.62 mmol, 1 g | ClC1=CC2=CN(N=C2C(=C1)C(=C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H43ClFN3O4Si
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloroethane | 40 mL | ClC(C)Cl | C2H4Cl2
catalyst | diacetato[(S)-(−)-2,2′-bis(di-p-tolylphosphino)-1,1′-binaphthyl]ruthenium(II) | 0.259 mmol, 233 mg | CC1=CC=C(C=C1)P(C2=CC=C(C=C2)C)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=C(C=C7)C)C8=CC=C(C=C8)C.CC(=O)O.CC(=O)O.[Ru]
product | (R)-tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)[C@@H](C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45ClFN3O4Si
